US07714126B2
With a procedure similar to example 16 above, 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid {6-[methyl-(2,2,2-trifluoro-ethyl)-amino]-pyridin-3-yl}-amide was prepared from 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid and N2-methyl-N2-(2,2,2-trifluoro-ethyl)-pyridine-2,5-diamine. LCMS calcd for C19H14F6N4O2 (m/e) 444, obsd 445 (M+H). The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | N2-methyl-N2-(2,2,2-trifluoro-ethyl)-pyridine-2,5-diamine | CN(C1=NC=C(C=C1)N)CC(F)(F)F | C8H10F3N3
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid {6-[methyl-(2,2,2-trifluoro-ethyl)-amino]-pyridin-3-yl}-amide | CN(C1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)CC(F)(F)F | C19H14F6N4O2
